US07598244B2
The obtained 5-hydroxy-5-methylhexan-2-one (14.23 g) was dissolved in methylene chloride (520 ml). Thereafter, benzhydrylamine (21.00 g) was added to the solution, and the obtained mixture was stirred at a room temperature overnight. Thereafter, sodium triacetoxy borohydride (46.30 g) was added to the reaction solution, and the obtained mixture was stirred at a room temperature for 4 hours. Thereafter, distilled water (173 ml) was added to the reaction solution, and the obtained solution was then adjusted to be pH 12 by addition of an aqueous 6 M sodium hydroxide solution. After extraction with chloroform, the organic layer was washed with a saturated saline solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under a reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluted with 67% ethyl acetate-hexane) to obtain 5-benzhydrylamino-2-methylhexan-2-ol (22.80 g).

reactant | 5-hydroxy-5-methylhexan-2-one | 14.23 g | OC(CCC(C)=O)(C)C | C7H14O2
reactant | benzhydrylamine | 21.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | sodium triacetoxy borohydride | 46.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 520 ml | C(Cl)Cl | CH2Cl2
product | 5-benzhydrylamino-2-methylhexan-2-ol | 22.80 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CCC(C)(O)C)C | C20H27NO
